US05629347
To a solution of (2S)-1-((3,5-bis(trifluoromethyl)phenyl)methyloxy)-2-(N-(carbomethoxy)methylamino-3,3-diphenylpropane (7.6 g, prepared as an intermediate in Example 57) in dimethylformamide (80 ml) was added potassium carbonate (10 g) and methyl iodide (4.5 ml) and the solution stirred in an enclosed atmosphere for 16 hours. Ethyl acetate (200 ml) and water were added and the organic phase washed with water, brine and dried (MgSO4). Purification by silica gel chromatography gave (2S)-1-((3,5-bis(trifluoromethyl)phenyl)methyloxy)-2-((N-(carbomethoxy)methyl)-N-methyl)amino)-3,3-diphenylpropane.

reactant | N-(carbomethoxy)methylamino-3,3-diphenylpropane | C(=O)(OC)CNCCC(C1=CC=CC=C1)C1=CC=CC=C1 | C18H21NO2
reactant | potassium carbonate | 10 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 4.5 ml | CI | CH3I
reactant | Ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 3,3-diphenylpropane | C1(=CC=CC=C1)C(CC)C1=CC=CC=C1 | C15H16
